US09303023B2
To 1-(2-chloroethyl)-2-methyl-1H-benzoimidazole) (4.42 g, 22.71 mmol), in MeCN (50 mL), 4-nitro-1H-pyrazole (2.57 g, 22.71 mmol) and Cs2CO3 (8.14 g, 24.98 mmol) was added. After stirring at 80° C. for 18 h the reaction mixture was allowed to reach rt and filtered. The filter cake was washed with DCM and the filtrate was concentrated in vacuo, then the residue was dissolved in DCM and washed with H2O. The combined aq. layers were reextracted with DCM, the combined org. layers were dried (MgSO4), filtered and the solvent removed under reduced pressure to yield 2-methyl-1-(2-(4-nitro-1H-pyrazol-1-yl)-ethyl)-1H-benzoimidazole, which is used in the next step without further purification. LC-MS conditions B: tR=0.42 min, [M+H]+=272.07.

reactant | 1-(2-chloroethyl)-2-methyl-1H-benzoimidazole | ClCCN1C(=NC2=C1C=CC=C2)C | C10H11ClN2
reactant | 4-nitro-1H-pyrazole | 22.71 mmol, 2.57 g | [N+](=O)([O-])C=1C=NNC1 | C3H3N3O2
reactant | Cs2CO3 | 24.98 mmol, 8.14 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | MeCN | 50 mL | CC#N | C2H3N
product | 2-methyl-1-(2-(4-nitro-1H-pyrazol-1-yl)-ethyl)-1H-benzoimidazole | CC1=NC2=C(N1CCN1N=CC(=C1)[N+](=O)[O-])C=CC=C2 | C13H13N5O2
